US09193692B2
C. 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine
3-Bromo-2-methyl-6-(1H-1,2,4-triazol-3-yl)pyridine (0.7 g, 2.93 mmol) and 3,4-dihydro-2H-pyran (0.493 g, 5.86 mmol) were dissolved in tetrahydrofuran (20 mL). TFA (3.34 mg, 0.029 mmol) was added and the resulting solution was heated to 70° C. for 16 h. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, filtered and poured into a separatory funnel containing water and ethyl acetate. The organic layer was concentrated under reduced pressure. Flash chromatography (0-60% ethyl acetate in hexane) gave the desired product as a white solid (0.40 g, 1.23 mmol, 42% yield). MS (ESI) m/z 325.1 [M+2]+.

reactant | 3-Bromo-2-methyl-6-(1H-1,2,4-triazol-3-yl)pyridine | 2.93 mmol, 0.7 g | BrC=1C(=NC(=CC1)C1=NNC=N1)C | C8H7BrN4
reactant | 3,4-dihydro-2H-pyran | 5.86 mmol, 0.493 g | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | TFA | 0.029 mmol, 3.34 mg | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine | 1.23 mmol, 0.40 g, 42% yield | BrC=1C(=NC(=CC1)C1=NN(C=N1)C1OCCCC1)C | C13H15BrN4O
